US07279481B2
2-{3-[(Methylsulfonyl)amino]phenyl}ethyl methanesulfonate
The title compound was prepared from 3-aminophenethyl alcohol (U.S. Pat. No. 2,641,602) and methanesulfonyl chloride (2 eq.) according to the procedure contained within description 4. The product was used immediately without further purification or characterisation.

reactant | 3-aminophenethyl alcohol | NC=1C=C(CCO)C=CC1 | C8H11NO
reactant | methanesulfonyl chloride | 2 eq. | CS(=O)(=O)Cl | CH3ClO2S
product | 2-{3-[(Methylsulfonyl)amino]phenyl}ethyl methanesulfonate | CS(=O)(=O)OCCC1=CC(=CC=C1)NS(=O)(=O)C | C10H15NO5S2
